US05117057
To a stirred suspension of N'-t-butyl-N-benzoyl-N'-(3,5-dimethylbenzoyl)hydrazine (1.5 g) in dimethylformamide (DMF) (20 ml) was added sodium hydride (200 mg of 60% oil dispersion) portionwise. After 15 min., propargyl bromide (0.6 g) was added to the reaction mixture dropwise and the reaction stirred for 1 hour. The reaction mixture was diluted with ethyl acetate (50 ml) and washed with water (5×20 ml). The organic layer was then dried over magnesium sulfate and the solvent removed under vacuum to afford N-(2-propynyl)-N'-t-butyl-N-benzoyl-N'-(3,5-dimethylbenzoyl)hydrazine as a yellow amorphous solid. The product, N-(2-propynyl)-N'-t-butyl-N-benzoyl-N'-(3,5-dimethylbenzoyl)hydrazine, was purified by column chromatography on silica gel (solvent system:methylene chloride) to afford a 70% yield as a white solid.

reactant | N'-t-butyl-N-benzoyl-N'-(3,5-dimethylbenzoyl)hydrazine | 1.5 g | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(C1=CC(=CC(=C1)C)C)=O | C20H24N2O2
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | propargyl bromide | 0.6 g | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-propynyl)-N'-t-butyl-N-benzoyl-N'-(3,5-dimethylbenzoyl)hydrazine | 70% yield | C(C#C)N(N(C(C1=CC(=CC(=C1)C)C)=O)C(C)(C)C)C(C1=CC=CC=C1)=O | C23H26N2O2
